US04311649
Preparation of S-ethyl N,N-bis(2-fluoro-2,2-dinitroethyl)thiocarbamate (II)
A mixture of 55.0 g (0.19 mol) of bis(2-fluoro-2,2-dinitroethyl)amine, 38 ml of chloroform, 40 ml of ethyl chlorothiolformate and 20 ml of titanium tetrachloride was heated in an oil bath at 65°-67° C. for 17 hours (The reaction mixture was protected from atmospheric moisture with a drierite drying tube). Chloroform (100 ml) was added to the warm mixture which was then filtered through celite. The dark colored filtrate was pulled on a rotary evaporator to give a residue which was dissolved in methanol and treated with charcoal. After filtration, the solvent was removed with a rotary evaporator and the product was crystallized by dissolving in chloroform (55 ml) and cooling in the freezer. The yield was 48.0 g (67%), mp 74°-75° C., NMR (chloroform): δ1.26(t), 2.95(q), 4.83(d).

reactant | bis(2-fluoro-2,2-dinitroethyl)amine | 0.19 mol, 55.0 g | FC(CNCC(F)([N+](=O)[O-])[N+](=O)[O-])([N+](=O)[O-])[N+](=O)[O-] | C4H5F2N5O8
reactant | chloroform | 38 ml | C(Cl)(Cl)Cl | CHCl3
reactant | ethyl chlorothiolformate | 40 ml | ClC1=C(SC=C1)C(=O)OCC | C7H7ClO2S
reactant | Chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
reactant | charcoal | C | CH4
reactant | methanol | CO | CH4O
catalyst | titanium tetrachloride | 20 ml | [Ti](Cl)(Cl)(Cl)Cl
product | S-ethyl N,N-bis(2-fluoro-2,2-dinitroethyl)thiocarbamate | FC(CN(C(SCC)=O)CC(F)([N+](=O)[O-])[N+](=O)[O-])([N+](=O)[O-])[N+](=O)[O-] | C7H9F2N5O9S
